US07569583B2
(Hexahydropyrrolizin-1-yl)methanol
Lithiumaluminumhydride (0.3 g) was added to a solution of hexahydropyrrolizine-1-carboxylic acid ethyl ester (0.97 g) in THF (3 ml). After 12 hours, the reaction mixture was diluted with diethyl ether and hydrolyzed by cautious addition of water (0.7 ml). The resulting precipitate was filtered off and the filtrate was concentrated. The product with the molecular weight of 141.21 (C8H15NO); MS (ESI): 142 (M+H+) was obtained in this way.

reactant | hexahydropyrrolizine-1-carboxylic acid ethyl ester | 0.97 g | C(C)OC(=O)C1CCN2CCCC12 | C10H17NO2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | 0.7 ml | O | H2O
product | (Hexahydropyrrolizin-1-yl)methanol | C1(CCN2CCCC12)CO | C8H15NO
